US03947470
3-[4-(2-Diethylaminoethoxy)benzoyl]-2-(4-methoxyphenyl)benzofuran
To a mixture of 11.2 g. (0.05 mol.) of 2-(4-methoxyphenyl)benzofuran and 14.6 g. (0.05 mol.) of 4-(2-diethylaminoethoxy)benzoyl chloride hydrochloride in 100 ml. of methylene chloride is added 39.1 g. (0.15 mol.) of stannic chloride. The reaction mixture is stirred for 1.5 hours at ambient temperature then poured into water. The layers are separated and the organic phase is washed with aqueous sodium carbonate until basic and water, dried (MgSO4) and concentrated to give the title compound.

reactant | 2-(4-methoxyphenyl)benzofuran | 0.05 mol | COC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C15H12O2
reactant | 4-(2-diethylaminoethoxy)benzoyl chloride hydrochloride | 0.05 mol | Cl.C(C)N(CCOC1=CC=C(C(=O)Cl)C=C1)CC
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-[4-(2-Diethylaminoethoxy)benzoyl]-2-(4-methoxyphenyl)benzofuran | C(C)N(CCOC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)OC)C=C1)CC | C28H29NO4
